US04647560
(b) 1-Benzyl-4-amino-4-piperidinecarboxylic acid chloride dihydrochloride
HCl is passed into a suspension of 10 g of finely powdered 1-benzyl-4-amino-4-piperidinecarboxylic acid in 111 ml of CH2Cl2 at 0° C. for 1 hour. 26 g of PCl5 in 200 ml of CH2Cl2 are added in several portions to this mixture, with vigorous stirring and while passing in further HCl. After the mixture has been stirred at 0° C. for 4 hours, the reaction product is filtered off with suction over a glass frit, with exclusion of moisture, and washed thoroughly with petroleum ether (60°-80° C.) and CH2Cl2. The crude product thus obtained is used in the next reaction stage without further purification.

reactant | 1-benzyl-4-amino-4-piperidinecarboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)N | C13H18N2O2
reactant | PCl5 | 26 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CH2Cl2 | 111 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | Cl | ClH
product | 1-Benzyl-4-amino-4-piperidinecarboxylic acid chloride dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)Cl)N | InChI=1S/C13H17ClN2O.2ClH/c14-12(17)13(15)6-8-16(9-7-13)10-11-4-2-1-3-5-11;;/h1-5H,6-10,15H2;2*1H
